US04215044
A solution of 21.28 g (0.09 mol) of β-ethoxy-β-trimethylsiloxystyrene (from above) in 200 ml of CFCl3 was cooled to -70° C. and 9.4 g (0.09 mol) of trifluoromethyl hypofluorite were passed into the solution over a period of 3 hours. The reaction mixture was warmed to room temperature and then distilled to give 12.52 g (77% yield) of ethyl α-fluorobenzeneacetate as a colorless liquid: bp 96°-98° C. (4.8 mm); 19F NMR (CFCl3) δ-180.1 ppm (d,J=48 Hz); 1H NMR (CFCl3) δ 1.10 ppm (t,J=7 Hz, 2H), 4.10 ppm (q,J=7 Hz, 2H), 5.66 ppm (d,J=48 Hz, 1H) and 7.1-7.6 ppm (m, 5H). Anal. Calcd. for C10H11FO2 : C, 65.92; H, 6.07; F, 10.43; Found: C, 66.09; H, 6.13; F, 10.33.

reactant | β-ethoxy-β-trimethylsiloxystyrene | 0.09 mol, 21.28 g | C(C)OC(=CC1=CC=CC=C1)O[Si](C)(C)C | C13H20O2Si
reactant | trifluoromethyl hypofluorite | 0.09 mol, 9.4 g | FOC(F)(F)F | CF4O
solvent | CFCl3 | 200 ml | C(F)(Cl)(Cl)Cl | CCl3F
product | ethyl α-fluorobenzeneacetate | 12.52 g, 77% yield | FC(C(=O)OCC)C1=CC=CC=C1 | C10H11FO2
